US05728835
N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-hydroxymethyl-N-(2-methoxyphenyl)benzene sulfonamide
N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-tetrahydropyranyloxymethyl-N-(2-methoxyphenyl)benzene sulfonamide (101 mg, 0.165 mmol) was dissolved in methanol (5 ml) to which was subsequently added p-toluenesulfonic acid monohydrate (35 mg, 0.18 mmol) at room temperature. After 2 hour of stirring at the same temperature, methanol was removed by evaporation, and the resulting reaction solution was mixed with saturated sodium bicarbonate aqueous solution (5 ml), extracted with ethyl acetate, and washed with water and saturated brine. The water layer was extracted with ethyl acetate, and washed with water and saturated brine, and the organic layers were combined and dried on anhydrous sodium sulfate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by a silica gel column chromatography (ethyl acetate) to obtain 87 mg (100%) of the title compound in the form of colorless oil.

reactant | N-{2-[4-(4-Fluorobenzoyl)piperidino]ethyl}-4-tetrahydropyranyloxymethyl-N-(2-methoxyphenyl)benzene sulfonamide | 0.165 mmol, 101 mg | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CC=C(C=C2)COC2OCCCC2)C2=C(C=CC=C2)OC)C=C1 | C33H39FN2O6S
reactant | p-toluenesulfonic acid monohydrate | 0.18 mmol, 35 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-hydroxymethyl-N-(2-methoxyphenyl)benzene sulfonamide | 87 mg, 100% | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CC=C(C=C2)CO)C2=C(C=CC=C2)OC)C=C1 | C28H31FN2O5S
